US09278910B2
Prepared using General Procedure 9: To a stirring solution of 4-((N-(2-(tert-butoxy)-2-oxoethyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)methyl)phenyl 4-(heptyloxy)benzoate INT-6 (2.53 g, 3.20 mmol) in THF (10 mL) and MeOH (50 mL) was added 2N NaOH (3.2 mL). The reaction mixture was stirred at room temperature for 10 min. The reaction mixture was acidified with AcOH. The crude mixture was concentrated then diluted with DCM (150 mL) and washed with brine (200 mL). The organic layer was concentrated and purified by chromatography (EA/hexanes) to afford 1.64 g (88%) of tert-butyl 2-(N-(4-hydroxybenzyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)acetate INT-9. LCMS-ESI (m/z) calculated for C30H31F3N2O6: 572; found 571 [M−H]−, tR=2.30 min. (Method 3).

reactant | 4-((N-(2-(tert-butoxy)-2-oxoethyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)methyl)phenyl 4-(heptyloxy)benzoate | C(CCCCCC)OC1=CC=C(C(=O)OC2=CC=C(C=C2)CN(C(C2=CC=C(C=C2)NC(CC2=C(C=C(C=C2)OC)C(F)(F)F)=O)=O)CC(=O)OC(C)(C)C)C=C1 | C44H49F3N2O8
reactant | MeOH | 50 mL | CO | CH4O
reactant | NaOH | 2N, 3.2 mL | [OH-].[Na+]
reactant | AcOH | CC(=O)O | C2H4O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 2-(N-(4-hydroxybenzyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)acetate | 1.64 g, 88% | OC1=CC=C(CN(C(C2=CC=C(C=C2)NC(CC2=C(C=C(C=C2)OC)C(F)(F)F)=O)=O)CC(=O)OC(C)(C)C)C=C1 | C30H31F3N2O6
